US07199147B2
To a solution of the 1H-indazol-5-ol (150 mg, 1.12 mmol) obtained in Reference Example 4 in tetrahydrofuran (6 ml) were added 4-hydroxytetrahydropyran (0.107 ml, 1.12 mmol), triphenylphosphine (293 mg, 1.12 mmol) and a 40%-diethyl azodicarboxylate-toluene solution (0.517 ml, 1.14 mmol) at 0° C. After 30 minutes, the mixture thus obtained was heated to room temperature. After stirring overnight, the reaction solution was concentrated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol) to obtain 5-(tetrahydro-2H-pyran-4-yloxy)-1H-indazole (11.4 mg, 47%).

reactant | 1H-indazol-5-ol | 1.12 mmol, 150 mg | N1N=CC2=CC(=CC=C12)O | C7H6N2O
reactant | 4-hydroxytetrahydropyran | 1.12 mmol, 0.107 ml | OC1CCOCC1 | C5H10O2
reactant | triphenylphosphine | 1.12 mmol, 293 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 1.14 mmol, 0.517 ml | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 5-(tetrahydro-2H-pyran-4-yloxy)-1H-indazole | 11.4 mg, 47% | O1CCC(CC1)OC=1C=C2C=NNC2=CC1 | C12H14N2O2
